US06555556B1
2-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-nitroisophthalic Acid
A solution of dimethyl 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-nitroisophthalate (10.7 g) in concentrated hydrochloric acid (100 ml) was stirred at 80° C. for 10 hours. The reaction mixture was concentrated in vacuo. To the residue was added hexane to afford a white solid which was collected by filtration. To a solution of the solid in a mixture of water (50 ml) and acetone (50 ml) were added sodium hydrogencarbonate (4.6 g) and di-t-butyl dicarbonate (5.9 g) at room temperature. The resulting mixture was stirred at 40° C. for 1 hour. The reaction mixture was extracted with ethyl acetate. The extract was washed with brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and the filtrate was concentrated in vacuo. To the residue was added hexane and the mixture was filtered to give the desired compound (4.1 g, yield 40%) as a pale yellow solid.

reactant | dimethyl 2-(1-t-butoxycarbonylpiperidin-4-yloxy)-5-nitroisophthalate | 10.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=C(C=C1C(=O)OC)[N+](=O)[O-] | C20H26N2O9
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 2-(1-t-Butoxycarbonylpiperidin-4-yloxy)-5-nitroisophthalic Acid | 4.1 g, yield 40% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)O)C=C(C=C1C(=O)O)[N+](=O)[O-] | C18H22N2O9
